US06166006
Under argon atmosphere, a solution of ethyl (E)-3-(5-bromothiophen-2-yl)acrylate (1.00 g), 4-isopropylphenyl borate (0.86 g) and potassium carbonate (1.12 g) in toluene/ethanol/water (40/4/4 ml) was stirred at room temperature for 1 hour. To the mixture was added tetrakistriphenylphosphine palladium (0.14 g), and the mixture was refluxed for 18 hours and then cooled to room temperature. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=1:9) to give pale yellow crystals of methyl (E)-3-[5-(4-isopropylphenyl)-thiophen-2-yl]acrylate (0.83 g).

reactant | ethyl (E)-3-(5-bromothiophen-2-yl)acrylate | 1.00 g | BrC1=CC=C(S1)/C=C/C(=O)OCC | C9H9BrO2S
reactant | 4-isopropylphenyl borate | 0.86 g | B(OC1=CC=C(C=C1)C(C)C)([O-])[O-]
reactant | potassium carbonate | 1.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 4 ml | C1(=CC=CC=C1)C.C(C)O.O
product | methyl (E)-3-[5-(4-isopropylphenyl)-thiophen-2-yl]acrylate | 0.83 g | C(C)(C)C1=CC=C(C=C1)C1=CC=C(S1)/C=C/C(=O)OC | C17H18O2S
